US07223788B2
4-(4-Methylpiperidin-1-yl)benzoic acid
4-(4-Methylpiperidin1-yl)benzonitrile (1.2 g) was heated to reflux with potassium hydroxide (0.7 g) in water (2 ml) and ethylene glycol (8 ml) for 3 hours. The mixture was diluted with water, washed with ethyl acetate and acidified with 2N hydrochloric acid. The precipitated product was filtered off with suction, dissolved in dichloromethane, dried over sodium sulfate, concentrated and crystallized from diethyl ether. This resulted in the product with the molecular weight of 219.29 (C13H17NO2); MS(ESI): 220 (M+H+).

reactant | 4-(4-Methylpiperidin1-yl)benzonitrile | 1.2 g | CC1CCN(CC1)C1=CC=C(C#N)C=C1 | C13H16N2
reactant | potassium hydroxide | 0.7 g | [OH-].[K+]
reactant | water | 2 ml | O | H2O
solvent | ethylene glycol | 8 ml | C(CO)O | C2H6O2
product | 4-(4-Methylpiperidin-1-yl)benzoic acid | CC1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C13H17NO2
